US04915755
In a manner analogous to that described hereinabove, an NPBA (BA-4) is prepared by polymerizing 53.06 g (1.0 mole) acrylonitrile and 23.22 g (0.2 mole) hydroxyethylacrylate, in the presence of 3.9 g of mercaptoethanol with AIBN (3.0 g) in 125 ml acetone at 60° C. for 6 hr. The GPC peak mol wt, determined as above, is 28,000 and the OH equivalent weight is 330.

reactant | acrylonitrile | 1.0 mole, 53.06 g | C(C=C)#N | C3H3N
reactant | hydroxyethylacrylate | 0.2 mole, 23.22 g | OCCOC(C=C)=O | C5H8O3
reactant | mercaptoethanol | 3.9 g | SC(C)O | C2H6OS
reactant | AIBN | 3.0 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | acetone | 125 ml | CC(=O)C | C3H6O
product | BA-4 | CC1(CCC=CC2C1CCC2(C)O)O | C12H20O2
